US07989454B2
A solution of 3-bromo-5-iodo-benzoic acid (5.0 g, 15.3 mmol) in 100 mL of thionyl chloride was heated under reflux for 2 h. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The resulting solid was then dissolved in 100 mL of CH2Cl2. N-Methyl-piperazine (2.5 mL, 22.9 mmol) and DIPEA (5.3 mL, 30.6 mmol) were added and the reaction mixture was stirred at room temperature for 3 h. The resulting solution was concentrated under reduced pressure and the crude material was purified by column chromatography (Isco™ 330 g) using 20% MeOH/EtOAc as eluting solvent to afford 5 g (80%) of (3-bromo-5-iodo-phenyl)-(4-methyl-piperazin-1-yl)-methanone as a white solid.

reactant | 3-bromo-5-iodo-benzoic acid | 15.3 mmol, 5.0 g | BrC=1C=C(C(=O)O)C=C(C1)I | C7H4BrIO2
reactant | N-Methyl-piperazine | 22.9 mmol, 2.5 mL | CN1CCNCC1 | C5H12N2
reactant | DIPEA | 30.6 mmol, 5.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | thionyl chloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
product | (3-bromo-5-iodo-phenyl)-(4-methyl-piperazin-1-yl)-methanone | 5 g, 80% | BrC=1C=C(C=C(C1)I)C(=O)N1CCN(CC1)C | C12H14BrIN2O
